US07563797B2
To a solution of 2-(3-chloro-phenyl)-imidazo[1,2-a]pyridine-7-carboxylic acid sodium salt (141 mg, 0.481 mmol) in DMF (2 mL) were added EDC (3 eq, 1.44 mmol, 277 mg) and HOBt (3 eq, 1.44 mmol, 195 mg). The mixture was stirred at room temperature for 15 minutes then tetrahydropyran-methylamine (1.5 eq, 0.72 mmol, 83 mg) and triethyl amine (3 eq, 1.44 mmol, 0.21 mL) were added. The reaction mixture was stirred at room temperature for 3 hours then quenched by the addition of water. The product was extracted three times with ethyl acetate and the crude product was purified by column chromatography to afford 2-(3-chloro-phenyl)-imidazo[1,2-a]pyridine-7-carboxylic acid (tetrahydro-pyran-4-ylmethyl)-amide in 65% yield. 1H NMR (DMSO-d6) δ 8.69 (1H), 8.61 (2H), 8.16 (1H), 8.11 (1H), 7.98 (1H), 7.51 (1H), 7.41 (1H), 7.38 (1H), 3.92 (2H), 3.18 (2H), 3.11 (2H), 1.95 (1H), 1.31 (2H), 1.12 (2H); m/z (M+H)=370.3

reactant | 2-(3-chloro-phenyl)-imidazo[1,2-a]pyridine-7-carboxylic acid sodium salt | 0.481 mmol, 141 mg | [Na+].ClC=1C=C(C=CC1)C=1N=C2N(C=CC(=C2)C(=O)[O-])C1
reactant | EDC | 1.44 mmol, 277 mg, 3 eq
reactant | HOBt | 1.44 mmol, 195 mg, 3 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | tetrahydropyran-methylamine | 0.72 mmol, 83 mg, 1.5 eq | O1C(CCCC1)CN | C6H13NO
reactant | triethyl amine | 1.44 mmol, 0.21 mL, 3 eq | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(3-chloro-phenyl)-imidazo[1,2-a]pyridine-7-carboxylic acid (tetrahydro-pyran-4-ylmethyl)-amide | 65% yield | O1CCC(CC1)CNC(=O)C1=CC=2N(C=C1)C=C(N2)C2=CC(=CC=C2)Cl | C20H20ClN3O2
